US04138488
B. 2-Chloro-5-[Bis-(4-Chlorophenyl)-Methyl]-Pyridine
To a mixture of 35.2 g. (0.11 mole) of 5-[bis-(4-chlorophenyl)-methyl]-2-pyridone and 11.8 g. (0.11 mole) of 2,4-lutidine, add 50.6 g. (0.33 mole) of phosphorous oxychloride (dropwise) while heating the reaction mixture at 80°. Then, heat the reaction mixture at 120° C. for six hours. Pour the reaction mixture onto ice, basify with ammonium hydroxide, extract with benzene and remove both the benzene and residual 2,4-lutidine by distillation. Distill the residue at about 195°-210° C. (0.01 mm) to obtain thereby about 30 g. of the product of this step as a yellow viscous oil.

reactant | 5-[bis-(4-chlorophenyl)-methyl]-2-pyridone | 0.11 mole | ClC1=CC=C(C=C1)C(C=1C=CC(NC1)=O)C1=CC=C(C=C1)Cl | C18H13Cl2NO
reactant | 2,4-lutidine | 0.11 mole | N1=C(C=C(C=C1)C)C | C7H9N
reactant | phosphorous oxychloride | 0.33 mole | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2-Chloro-5-[Bis-(4-Chlorophenyl)-Methyl]-Pyridine | ClC1=NC=C(C=C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C18H12Cl3N
